US05166390
To a stirred, cooled (0° C.) solution of 0.70 g (0.0039 mol) of cis-3-(benzoylthio)propenoyl chloride in 40 ml of dichloromethane under nitrogen was added dropwise 0.21 ml (0.0039 mol) of propargylamine as a solution in 10 ml of dichloromethane. After 15 min, 0.43 ml (0.0039 mol) of triethylamine was added dropwise. The reaction was allowed to stir at 0° C. for 2 h, poured into 10% aqueous hydrochloric acid, and extracted three times with ethyl acetate. The combined organic layers were washed with water, brine, and dried over magnesium sulfate. Filtration and removal of solvents gave 0.49 g (65% yield) of N-(2-propynyl)-cis-3-(benzoylthio)acrylamide as a white powder, m.p. 131°-134° C., as described in Table 1.

reactant | cis-3-(benzoylthio)propenoyl chloride | 0.0039 mol, 0.70 g | C(C1=CC=CC=C1)(=O)S\C=C/C(=O)Cl | C10H7ClO2S
reactant | propargylamine | 0.0039 mol, 0.21 ml | C(C#C)N | C3H5N
reactant | triethylamine | 0.0039 mol, 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2-propynyl)-cis-3-(benzoylthio)acrylamide | 0.49 g, 65% yield | C(C#C)NC(\C=C/SC(C1=CC=CC=C1)=O)=O | C13H11NO2S
